US07723330B2
Step C: Preparation of 5-(3-fluoro-4-hydroxyphenyl)-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one:
A solution of 5-(4-(benzyloxy)-3-fluorophenyl)-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one (0.139 g, 0.331 mmol) in TFA (1.5 mL) was stirred at 40° C. for 3 hours. The reaction mixture was concentrated to dryness and then purified by flash column chromatography, eluting with 20:1 dichloromethane/MeOH. The desired product (0.089 g, 82%) was obtained as a white solid.

reactant | 5-(4-(benzyloxy)-3-fluorophenyl)-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one | 0.331 mmol, 0.139 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1C(N(C(=NC1)NC1=CC=C(C=C1)F)C)=O)F | C24H19F2N3O2
solvent | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-(3-fluoro-4-hydroxyphenyl)-2-(4-fluorophenylamino)-3-methylpyrimidin-4(3H)-one | 0.089 g, 82% | FC=1C=C(C=CC1O)C=1C(N(C(=NC1)NC1=CC=C(C=C1)F)C)=O | C17H13F2N3O2
